US08530504B2
3-Methoxybutyl methanesulfonate
To a dichloromethane (30 mL) mixture of 3-methoxy-1-butanol (3.12 g, 30.0 mmol) and triethylamine (4.62 mL, 33.0 mmol), was added methanesulfonyl chloride (4.62 mL, 33.0 mmol) while stirring on ice, and the mixture was stirred at room temperature for 30 minutes. To the mixture, were added water and ethyl acetate. After thoroughly shaking the mixture, the organic layer was separated, and the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The mixture was then filtered, and the solvent in the filtrate was then distilled off under reduced pressure.

reactant | dichloromethane | 30 mL | ClCCl | CH2Cl2
reactant | 3-methoxy-1-butanol | 30.0 mmol, 3.12 g | COC(CCO)C | C5H12O2
reactant | triethylamine | 33.0 mmol, 4.62 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 33.0 mmol, 4.62 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-Methoxybutyl methanesulfonate | CS(=O)(=O)OCCC(C)OC | C6H14O4S
